US04250174
A suspension of 2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine (300 mg., 1 mmole) in 20 ml. of dichloromethane is treated with N-bromosuccinimide (220 mg., 1.24 mmole). The resultant solution is stirred at room temperature for 48 hours. The precipitate is collected by filtration, washed with dichloromethane and dried to yield 3-bromo-2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine m.p. 165°-168° C.

reactant | 2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine | 1 mmole, 300 mg | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=CC=C2)C1 | C15H13N3O2S
reactant | N-bromosuccinimide | 1.24 mmole, 220 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-bromo-2-(methoxycarbonylamino)-6-(phenylthio) imidazo [1,2-a] pyridine | BrC1=C(N=C2N1C=C(C=C2)SC2=CC=CC=C2)NC(=O)OC | C15H12BrN3O2S
